US05015640
starting from 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile and acetone (2-hydroxypropyl) oxime, there is obtained 2-[(isopropylideneamino)oxy]-1-methylethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a syrup, mass spectrum m/e: M+ 351 (12), 295 (4), 237 (81), 194 (100), 114 (35), 56 (78);

reactant | 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C#N | C15H12N2
reactant | acetone (2-hydroxypropyl) oxime | OC(CON=C(C)C)C | C6H13NO2
product | 2-[(isopropylideneamino)oxy]-1-methylethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OC(CON=C(C)C)C)=N | C21H25N3O2
